Name:  ___                   Unit No:   ___
 
Admission Date:  ___              Discharge Date:   ___
 
Date of Birth:  ___             Sex:   M
 
Service: MEDICINE
 
Allergies: 
Penicillins
 
Attending: ___.
 
Chief Complaint:
___ and altered mental status
 
Major Surgical or Invasive Procedure:
___ placement ___

 
History of Present Illness:
___ is a ___ year-old man with
a history of tachy-brady syndrome s/p BiV pacemaker, CAD s/p
CABG, HFpEF (45%), a fib on warfarin, T2DM, CKD (baseline Cr
1.9), and TIA, with recent admission for subgaleal hematoma in
the setting of a supratherapeutic INR, ___, and MSSA bacteremia
now getting cefazolin, who presents from rehab with acute kidney
injury and altered mental status.

History was obtained primarily via the patient's daughter and
partner, as patient was oriented to person only. He reportedly
started becoming more confused at rehab and having 
hallucinations
of dancing people in the air beginning the day prior to
admission. He was also noted to be having shaking movements of
hands. He initially showed signs of oliguria so Foley was placed
with immediate output of 650cc. The patient does not report
fevers, chills, shortness of breath, cough, abdominal pain,
nausea, vomiting, diarrhea, and constipation. Unclear if any
falls recently.

In the ED, initial VS were: T 98.6, HR 99, BP 123/65, RR 18, O2
sat 98% RA

Exam notable for:
Exam: unable to obtain much due to lack of pt cooperation
CV: RRR nl s1/s2
Lungs: anterior fields auscultated, unable to appreciate
crackles, however pt not cooperating
Abd: soft, ND, possible diffuse tenderness
Extr: no edema over BLE
Neuro: AOx person only

ECG: V-paced rhythm, regular rate

Labs showed: WBC 9.3, Hgb 8.9, CK 23, BUN 57, Cr 5.0 (baseline
1.9), INR 5.0, proBNP 23,136, trop 0.13

UA- moderate leukesterase, large blood, 160 RBCs, 83 WBCs, few
bacteria, few yeast

Imaging showed: CXR- Mild pulmonary edema with small left 
pleural
effusion and patchy bibasilar atelectasis. 

Renal US- 1. Limited visualization of the left kidney and 
bladder
is discussed above. Unchanged appearance of right kidney with no
evidence of hydronephrosis.
2. Study can be repeated when the patient is more cooperative.

NCHCT- No acute intracranial process.

Consults: Nephrology-
- ___ could be cardiorenal (high BNP, CXR with congestion),
pre-renal or AIN from cefazolin
- send urine lytes, UA. Agree with checking CK
- unsure if AMS is related to ___. ID reckons AMS is partly
related to Cefazolin being overdosed for his CrCl.
- No acute indication for HD
- if volume overloaded - please give IV diuretics. ECHO

Patient received:
IV Ceftriaxone 1 g
IV CeFAZolin 1 g 

Transfer VS were: T 99.2, HR 88, BP 122/68, RR 18, O2 sat 97% RA 


On arrival to the floor, the patient was only minimally able to
participate in the medical interview. He states that he is not 
in
any pain, but was otherwise unable to answer further questions.

REVIEW OF SYSTEMS: 10 point ROS unable to be completed.
 
Past Medical History:
ALLERGIC RHINITIS                                               
ATRIAL FIBRILLATION                                             
CORONARY ARTERY DISEASE                                         
DIABETES TYPE II                                                
GASTROESOPHAGEAL REFLUX                                         
HYPERCHOLESTEROLEMIA                                            
HYPERTENSION                                                    
INSOMNIA                                                        
PACEMAKER                                                       
PROSTATISM                                                      
OSTEOARTHRITIS                                                  
TRANSIENT ISCHEMIC ATTACK                                       
DNR/DNI                                                         
ADVANCE CARE PLANNING                                           
ECZEMATOUS DERMATITIS                                           
PRURIGO NODULARIS                                               
H/O PHLEBITIS    

 
Social History:
___
Family History:
Mother deceased ___- CAD, DM
Father deceased ___- CAD, DM
2 brothers and 3 sister deceased- CAD, DM
Sister with dementia 

 
Physical Exam:
ADMISSION PHYSICAL EXAM:
#ERROR!
VS: 98.8 PO 127 / 58 60 18 99 RA 
GENERAL: NAD, pleasant, comfortable
HEENT: AT/NC, anicteric sclera, MMM
NECK: supple, no LAD
CV: RRR, nl S1/S2, no murmurs, gallops, or rubs
PULM: unable to be assessed ___ poor patient cooperation
GI: abdomen soft, nondistended, nontender in all quadrants, no
rebound/guarding, no hepatosplenomegaly
EXTREMITIES: no cyanosis, clubbing, or edema
PULSES: 2+ radial pulses bilaterally
NEURO: A&Ox1 (self, unable to answer further questions), moving
all 4 extremities with purpose, face symmetric
DERM: warm and well perfused, no excoriations or lesions, no
rashes

DISCHARGE PHYSICAL EXAM:
#ERROR!
VS: 97.8F, BP 127/62, HR 61, RR 20, SpO2 96% RA
GENERAL: NAD, pleasant
HEENT: NCAT, anicteric sclera, dry MM.
CV: loud systolic murmur best heard at RUSB.
PULM: clear to auscultation anteriorly.
GI: abdomen soft, nondistended, nontender in all quadrants, no
rebound/guarding.
EXTREMITIES: no cyanosis, clubbing, or edema. No rash 
visualized.
NEURO: awake, alert, oriented to person but not place or time.
often answers questions inappropriately, but on persistent
probing will eventually get to the answer. moving all 
extremities
spontaneously.

 
Pertinent Results:
ADMISSION LABS:
#ERROR!
___ 07:05PM BLOOD WBC-9.3 RBC-3.03* Hgb-8.9* Hct-29.6* 
MCV-98 MCH-29.4 MCHC-30.1* RDW-14.5 RDWSD-51.7* Plt ___
___ 07:05PM BLOOD Neuts-73.5* Lymphs-16.1* Monos-7.6 
Eos-1.8 Baso-0.5 Im ___ AbsNeut-6.85* AbsLymp-1.50 
AbsMono-0.71 AbsEos-0.17 AbsBaso-0.05
___ 07:25PM BLOOD ___ PTT-41.1* ___
___ 07:05PM BLOOD Glucose-136* UreaN-57* Creat-5.0*# Na-137 
K-4.3 Cl-93* HCO3-28 AnGap-16

___ 07:05PM BLOOD CK(CPK)-23*
___ 07:25PM BLOOD ___
___ 07:25PM BLOOD cTropnT-0.13*
___ 05:58AM BLOOD CK-MB-1 cTropnT-0.16*
___ 07:17PM BLOOD CK-MB-1 cTropnT-0.16*

PERTINENT LABS/MICRO/IMAGING:
#ERROR!
___ 06:11AM BLOOD ALT-<5 AST-25 LD(LDH)-238 CK(CPK)-26* 
AlkPhos-134* TotBili-0.2
___ 04:27AM BLOOD C3-132 C4-50*

___ 07:20PM URINE Color-Yellow Appear-Clear Sp ___
___ 07:20PM URINE Blood-LG* Nitrite-NEG Protein-100* 
Glucose-NEG Ketone-NEG Bilirub-NEG Urobiln-NEG pH-6.5 Leuks-MOD*
___ 07:20PM URINE RBC-160* WBC-83* Bacteri-FEW* Yeast-FEW* 
Epi-<1
___ 07:20PM URINE Hours-RANDOM UreaN-489 Creat-85 Na-27
___ 06:57AM URINE Hours-RANDOM Creat-71 Na-48 Phos-18.8

Micro:
--------
___ 7:20 pm URINE

                            **FINAL REPORT ___

   URINE CULTURE (Final ___:    < 10,000 CFU/mL. 

___ 8:50 pm BLOOD CULTURE

                            **FINAL REPORT ___

   Blood Culture, Routine (Final ___:    NO GROWTH. 

___ 8:55 pm BLOOD CULTURE

                            **FINAL REPORT ___

   Blood Culture, Routine (Final ___:    NO GROWTH.

Imaging:
----------
Renal US ___. Limited study with nonvisualization of the left kidney and 
bladder as the 
patient became uncooperative.  Study can be repeated when the 
patient is more 
cooperative. 
2. Unchanged appearance of right kidney with no evidence of 
hydronephrosis.  
Simple right renal cyst. 

CXR ___
Mild pulmonary edema with small left pleural effusion and patchy 
bibasilar 
atelectasis. 

CT head ___. No acute intracranial process.  No acute fracture. 
2. Mild soft tissue swelling overlying the right frontal and 
parietal bones. 

CXR ___.  Right-sided PICC tip terminates in the distal SVC.
2.  Interval improvement of interstitial pulmonary edema.

DISCHARGE LABS:
#ERROR!
___ 06:54AM BLOOD WBC-8.5 RBC-2.64* Hgb-8.0* Hct-25.3* 
MCV-96 MCH-30.3 MCHC-31.6* RDW-15.4 RDWSD-52.9* Plt ___
___ 06:54AM BLOOD Neuts-64.8 ___ Monos-7.8 Eos-2.9 
Baso-0.5 Im ___ AbsNeut-5.50 AbsLymp-1.97 AbsMono-0.66 
AbsEos-0.25 AbsBaso-0.04
___ 06:54AM BLOOD ___
___ 06:54AM BLOOD Glucose-92 UreaN-47* Creat-3.7* Na-142 
K-3.9 Cl-100 HCO3-27 AnGap-15
___ 06:54AM BLOOD Calcium-8.1* Phos-3.5 Mg-2.3

___ 06:54AM BLOOD CK(CPK)-35*
 
Brief Hospital Course:
PATIENT SUMMARY:
#ERROR!
___ with PMH of tachy-brady syndrome s/p BiV pacemaker, CAD s/p 
CABG, HFrEF (40-45%), afib on warfarin, T2DM, CKD (baseline Cr 
1.9), and TIA, with recent admission for subgaleal hematoma in 
the setting of a supratherapeutic INR, ___, and MSSA bacteremia, 
who presented from rehab with acute kidney injury and altered 
mental status. He has AIN thought to be due to cefzolin and 
omeprazole. He received prednisone 50mg PO daily for three days 
and renal function beginning to improve. He was switched to 
daptomycin for MSSA bacteremia. He did have a rash thought to be 
from ?AIN, cefazolin, or daptomycin but improved with steroid 
cream. Diuresis was held given his renal function but concern 
remains that he will accumulate fluid.

ACUTE ISSUES:
#ERROR!
# ___ on CKD: 
Likely AIN vs. cardiorenal in setting of volume overload. CXR 
shows some evidence of congestion and a small pleural effusion 
and he had a significantly elevated BNP, which could point 
towards volume overload, however patient did not appear volume 
overloaded on exam otherwise. AIN seems most likely given acute 
worsening without worsening volume overload in the setting of 
recent cefazolin and PPI. Per family, HD not within GOC. After 
discussions with infectious disease and nephrology the patient 
completed a 3 day course of 50mg of prednisone. His Cr continues 
to improve without any diuresis or IVF.

# Toxic metabolic encephalopathy:
# Delirium:
# Sterile pyuria: 
Per the patient's family, he has some degree of baseline 
dementia, but this is significantly off of his baseline, but 
close to where he has been after his prior hospitalization. The 
patient has bacteriuria, but it is unlikely this is a true UTI 
as he has been on antibiotics, s/p 1 dose of CTX in the ED. The 
patient's encephalopathy is likely secondary to uremia and may 
be worsened by steroids among other causes. Also large element 
of delirium with sundowning. Would be cognizant of constipation 
as contributing to delirium. He was calm with stable mental 
status at the time of discharge.

#HFrEF EF 40-45%:
#Heart failure exacerbation:
#Troponinemia:
BNP elevated to >23K, likely due to renal disease. Ddx includes 
___, MI, valve dysfunction, arrhythmia. CXR did not show 
consolidation. Troponin elevated to 0.16, but flat MB makes new 
ischemic disease less likely. Appears euvolemic on exam so held 
diuresis. Can consider diuresis prn weight gain at rehab if 
renal function continue to improve. Continued carvedilol. Held 
irbesartan in setting of ___.

# MSSA bacteremia: 
The patient was being treated for MSSA bacteremia of unclear 
source during his recent admission. TEE was not within goals of 
care and patient was unable to cooperate with spine imaging. 
Plan was for cefazolin for 6 week course to finish on ___. 
However, there is now concern for AIN from cefazolin. Patient 
has allergy to penicillins. Last dose of cefazolin given in ED 
on evening of ___. Therefore, patient switched to daptomycin 
(course to be completed ___ but developed a rash concerning 
for drug eruption ___. Although patient has rash this is likely 
not the cause of his AIN and therefore symptomatically treated 
the rash with hydrocortisone cream and continued daptomycin. He 
had initial PICC placed that patient self-removed, re-placed 
___.

# Coagulopathy: 
Patient had a significantly elevated INR, likely in the setting 
of his antibiotic use and possibly underlying infection, along 
with ___. There were no signs of active bleeding, so patient no 
actively reversed. Warfarin was held on admission, and once INR 
became therapeutic, warfarin was restarted and titrated. Of 
note, PATIENT MISSED A DOSE OF WARFARIN on ___, so will need 
daily INR checks at least for the next few days to titrate 
warfarin.

# Goals of care:
Daughter and HCP ___ reiterated patient's preference to be 
DNR/DNI. Has MOLST in chart. Daughter declined dialysis even if 
___ were to get worse. She was informed that ___ is very 
sick. Given the improvement in his renal function, the decision 
was made for discharge to rehab rather than hospice. However, 
recommend continuous assessment of health status and ongoing 
goals of care discussions. 

# Papular rash, resolved:
Patient with erythematous papular rash on extremities. Greatest 
concern for drug eruption. Rash began on ___ after the 
initiation of daptomycin. The patient's LFTs were normal making 
DRESS less likely. The patient rash improved considerably and 
resolved while on topical hydrocortisone as well as prednisone 
systemically to treat his AIN.

CHRONIC ISSUES:
#ERROR!
# Subgaleal hematoma: 
During previous hospitalization, CT head showed a right frontal 
subgaleal hematoma (without fracture) in the setting of 
significantly elevated INR during last admission. Appears stable 
on current NCHCT.

# Atrial fibrillation: CHADS 3
The patient had a history of paroxysmal atrial fibrillation, 
currently rate-controlled with carvedilol. Warfarin was 
initially held in setting of supratherapeutic INR but was 
restarted and retitrated. See comment re: warfarin above in 
"Coagulopathy."

# CAD s/p CABG:
Held home rosuvastatin while on daptomycin for concern of 
rhabdo.

# Hypertension: 
Continued home carvedilol. Held irbesartan in setting of ___. 

# Chronic anemia:
Currently at baseline in the ___.

TRANSITIONAL ISSUES:
#ERROR!
DISCHARGE Cr: 3.7
DISCHARGE INR: 2.1

Renal:
[ ] Close monitoring of renal function.
[ ] Patient to follow up with nephrology (appointment ___.

ID:
[ ] Daptomycin through ___. WEEKLY labs to be faxed to ___ 
___ (___): CBC with diff, BUN, Cr, CPK. Please 
draw first set ___.

Cardiac:
[ ] Home torsemide (10mg qd) held during hospitalization with 
stable respiratory status and improvement in renal function. 
Please monitor respiratory status and weight closely and restart 
diuretics accordingly.
[ ] Holding irbesartan in setting of ___. Please monitor blood 
pressure closely and adjust regimen accordingly. 
[ ] Holding rosuvastatin in setting of dapto therapy for c/f 
rhabdo.
[ ] Warfarin: has been receiving home dose 2mg daily for the 
past few days (Of note, did not receive Warfarin on ___. 
Please check INR daily for the next few days then every ___ 
days, starting ___, and titrate warfarin for INR ___.

Neuro:
[ ] Concern for delirium with sundowning. Please continue 
delirium precautions including prevention / treatment of 
constipation. 

GOC:
[ ] Continue goals of care discussion at rehab and as an 
outpatient. ___ want to set up palliative care clinic visit.

#CODE: DNR/DNI
#CONTACT: Name of health care proxy: ___ 
Relationship: daughter 
Phone number: ___ 
Cell phone: ___ 
 
Medications on Admission:
The Preadmission Medication list is accurate and complete.
1. Omeprazole 20 mg PO DAILY 
2. Rosuvastatin Calcium 40 mg PO QPM 
3. Vitamin D ___ UNIT PO DAILY 
4. Bisacodyl ___AILY:PRN Constipation - Second Line 
5. Calcium Acetate 1334 mg PO TID W/MEALS 
6. CeFAZolin 2 g IV Q12H 
7. Senna 8.6 mg PO BID:PRN Constipation - First Line 
8. Nitroglycerin SL 0.4 mg SL Q5MIN:PRN chest pain 
9. irbesartan 75 mg oral BID 
10. Carvedilol 12.5 mg PO BID 
11. Ferrous Sulfate 325 mg PO DAILY 
12. dutasteride 0.5 mg oral DAILY 
13. Warfarin 2 mg PO DAILY16 
14. Torsemide 10 mg PO DAILY 
15. Acetaminophen 650 mg PO Q6H:PRN Pain - Mild 
16. Milk of Magnesia 30 mL PO DAILY:PRN Constipation - First 
Line 
17. Fleet Enema (Mineral Oil) ___AILY:PRN constipation 

 
Discharge Medications:
1.  Daptomycin 500 mg IV Q48H 
RX *daptomycin 500 mg 1 vial IV Q48H Disp #*9 Vial Refills:*0 
2.  Tamsulosin 0.4 mg PO QHS  
3.  Torsemide 10 mg PO DAILY:PRN weight gain 
Take daily if weight up 3 lbs in a day or 5 lbs in a week. Take 
until weight back to normal.  
4.  Acetaminophen 650 mg PO Q6H:PRN Pain - Mild  
5.  Bisacodyl ___AILY:PRN Constipation - Second Line  
6.  Calcium Acetate 1334 mg PO TID W/MEALS  
7.  Carvedilol 12.5 mg PO BID  
8.  dutasteride 0.5 mg oral DAILY  
9.  Ferrous Sulfate 325 mg PO DAILY  
10.  Fleet Enema (Mineral Oil) ___AILY:PRN constipation 
 
11.  Milk of Magnesia 30 mL PO DAILY:PRN Constipation - First 
Line  
12.  Nitroglycerin SL 0.4 mg SL Q5MIN:PRN chest pain  
13.  Senna 8.6 mg PO BID:PRN Constipation - First Line  
14.  Vitamin D ___ UNIT PO DAILY  
15.  Warfarin 2 mg PO DAILY16  
16. HELD- irbesartan 75 mg oral BID  This medication was held. 
Do not restart irbesartan until you speak with your doctor.
17. HELD- Omeprazole 20 mg PO DAILY  This medication was held. 
Do not restart Omeprazole until you speak with your doctor.
18. HELD- Rosuvastatin Calcium 40 mg PO QPM  This medication was 
held. Do not restart Rosuvastatin Calcium until you speak with 
your doctor.
19.Outpatient Lab Work
ICD-10: ___
Fax to: ___ ___
WEEKLY labs, draw first set ___:
CBC with diff, BUN, Cr, CPK

20.Outpatient Lab Work
ICD-10: I48.0
To be followed by rehab.
Labs: ___

 
Discharge Disposition:
Extended Care
 
Facility:
___
 
___ Diagnosis:
PRIMARY:
-Acute kidney injury on chronic kidney disease
-Delirium

SECONDARY:
-Heart failure with reduced ejection fraction
-MSSA bacteremia
-Atrial fibrillation

 
Discharge Condition:
Mental Status: Confused - always. Oriented to person but not 
place or time.
Level of Consciousness: Waxes and wanes between awake/alert and 
lethargic but arousable to voice.
Activity Status: Ambulatory - requires assistance or aid (walker 
or cane).

 
Discharge Instructions:
Dear Mr. ___, 

It was a pleasure taking care of you at ___.

WHY WAS I ADMITTED TO THE HOSPITAL?
You were admitted because you were more confused than normal, 
and your kidneys were not functioning like they normally do.

WHAT HAPPENED WHILE I WAS IN THE HOSPITAL?
- Your antibiotics were switched, because there was concern that 
the antibiotics that you were discharged on last time may have 
made your kidney function worse. You were given a few days of 
steroids to help improve you kidney function. Later during your 
hospitalization, your kidney function improved.
- You developed a rash, likely due to the new antibiotics, but 
this improved with a steroid cream.
- You pulled out your PICC line, so a new PICC line was put in 
on ___. This will allow the rehab to give you IV antibiotics.

WHAT SHOULD I DO WHEN I LEAVE THE HOSPITAL? 
- Continue to take all medications as prescribed.
- Please attend all ___ clinic appointments.
- Please weigh yourself every morning, and call your heart 
doctor ___ ___ if you gain more than 3 lbs in a 
day or 5 lbs in a week. If this happens, you should also take 
10mg torsemide until you are back down to your normal weight.
- Your blood will be drawn at rehab so that your warfarin can be 
adjusted as needed. You will also have labs sent to the 
infectious disease doctors ___ are on antibiotics.

We wish you all the best,

Your ___ Care Team
 
Followup Instructions:
___